US08754114B2
Step 8: 3-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}benzoic acid
Lithium hydroxide monohydrate (40. mg, 0.96 mmol) was added to a mixture of methyl 3-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}benzoate (0.090 g, 0.19 mmol) in methanol (2.0 mL)/THF (1.0 mL)/water (0.5 mL) and then the reaction was stirred at r.t. for 4 h. The mixture was adjusted with conc. HCl to PH˜3, and then concentrated under reduced pressure to give the crude product which was directly used in the next reaction without further purification. LCMS (M+H)+: m/z=456.1

reactant | Lithium hydroxide monohydrate | 0.96 mmol | O.[OH-].[Li+]
reactant | methyl 3-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}benzoate | 0.19 mmol, 0.090 g | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)OC)C=CC2)(F)F | C23H18F3N5O3
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 3-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}benzoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)O)C=CC2)(F)F | C22H16F3N5O3
